US05281571
A solution of 2.3 g (5.4 mmole) (5-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-4-fluoro-2-nitrophenoxy)acetic acid, ethyl ester in 50 mL acetic acid was heated to 80° C. under a nitrogen atmosphere. The heat and nitrogen were removed and 0.9 g (16.2 mmole) iron powder was added in 3 portions over 5 minutes. The solution was stirred at 80° C. for an additional 50 minutes. The solution was cooled and filtered through Celite®. The filtrate was diluted with 100 mL water and extracted three times with ethyl acetate. The ethyl acetate extracts were washed with a saturated NaHCO3 solution, dried over anhydrous MgSO4 and concentrated in vacuo. The residue was recrystallized from methylcyclohexane/ethyl acetate to give 0.96 g (50%) of 7-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-6-fluoro-2H-1,4-benzoxazin-3(4H)-one as a white solid, mp 242° C.

reactant | (5-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-4-fluoro-2-nitrophenoxy)acetic acid, ethyl ester | 5.4 mmole, 2.3 g | ClC=1C(=NN(C1C(F)(F)F)C)C=1C(=CC(=C(OCC(=O)OCC)C1)[N+](=O)[O-])F | C15H12ClF4N3O5
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 16.2 mmole, 0.9 g | [Fe] | Fe
product | 7-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-6-fluoro-2H-1,4-benzoxazin-3(4H)-one | 0.96 g, 50% | ClC=1C(=NN(C1C(F)(F)F)C)C1=CC2=C(NC(CO2)=O)C=C1F | C13H8ClF4N3O2
